US08084448B2
C. 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid
A solution of 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid tert-butyl ester (420 mg, 0.77 mmol) in 6 mL of TFA/methylene chloride (1:1) is stirred at RT for 20 min. The solvent is removed under reduced pressure. Methylene chloride is added and removed (4×) to give the title compound as an oil: (M−1)−=489.

reactant | 3-{3-benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid tert-butyl ester | 0.77 mmol, 420 mg | C(C)(C)(C)OC(CCC1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1)=O | C27H38N2O6SSi
solvent | TFA methylene chloride | 6 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 3-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic Acid | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)CCC(=O)O | C23H30N2O6SSi
